* C:\Users\Kim\Documents\GitHub\spice-simulations\425-440.asc
V§Signal N001 0 SINE(0 2 10meg) Rser=50
L2 0 N004 225µ
L1 0 N003 225µ
V§BC_Hydro N005 0 SINE(0 10 60) Rser=50
C2 N005 N004 50n V=250
L3 0 N008 225µ
L4 0 N007 225µ
C1 N005 N008 50n
R§Scope 0 N006 1meg
R1 N002 N001 100
C3 N003 N002 50n
R§load N006 0 2.66k
C4 N007 N006 50n
.tran 0 0.0001 0
K1 L1 L2 1
K2 L3 L4 1
.backanno
.end
